US08486939B2
Thiophenol (230 mg, 2.1 mmol) and NaOH (85 mg, 2.1 mmol) were combined in water to give a clear solution, which was then evaporated to dryness. 1-[4-Chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole (184 mg, 0.5 mmol) and tris[2-(2-methoxyethoxy)ethyl]amine (TDA-1; 16 mg, 0.05 mmol) were added and the mixture was heated under reflux in dioxane (10 mL) for 2 hr. After cooling, the mixture was diluted with water to give a solid, which was recrystallised from EtOH to give 167 mg (76% yield) of 2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(phenylsulfanyl)-1,3,5-triazin-2-yl]-1H-benzimidazole: mp 245-248° C.; 1H NMR (CDCl3) δ 7.83 (t, J=8.6 Hz, 2H), 7.67 (dd, J=8.1, 1.3 Hz, 2H), 7.58 (br t, J=7.4 Hz, 1H), 7.52 (br t, J=7.3 Hz, 2H), 7.34 (dt, J=7.9, 1.2 Hz, 1H), 7.25 (dd, J=7.8, 1.2 Hz, 1H), 6.91 (t, JHF=53.5 Hz, 1H), 3.89 (m, 4H), 3.82-3.77 (m, 4H); Anal. Calc. for C21H18F2N6OS: C, 57.3; H, 4.1; N, 19.1. Found: C, 57.2; H, 4.1; N, 19.2%.

reactant | Thiophenol | 2.1 mmol, 230 mg | C1(=CC=CC=C1)S | C6H6S
reactant | NaOH | 2.1 mmol, 85 mg | [OH-].[Na+]
reactant | 1-[4-Chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 0.5 mmol, 184 mg | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 0.05 mmol, 16 mg | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | water | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(phenylsulfanyl)-1,3,5-triazin-2-yl]-1H-benzimidazole | 167 mg, 76% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)SC1=CC=CC=C1)C=CC=C2)F | C21H18F2N6OS
